US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride as starting compound and 6-bromo-1-(1-naphthyl)-1-hexanone were reacted and treated in the same manner as in Example 172 to give 4-amino-5-chloro-2-methoxy-N-((1-(6-(1-naphthyl)-6-oxohexyl)-piperidin-4-yl)methyl)benzamide hydrochloride.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 6-bromo-1-(1-naphthyl)-1-hexanone | BrCCCCCC(=O)C1=CC=CC2=CC=CC=C12 | C16H17BrO
product | 4-amino-5-chloro-2-methoxy-N-((1-(6-(1-naphthyl)-6-oxohexyl)-piperidin-4-yl)methyl)benzamide hydrochloride | Cl.NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C2=CC=CC3=CC=CC=C23)C=C1Cl)OC | InChI=1S/C30H36ClN3O3.ClH/c1-37-29-19-27(32)26(31)18-25(29)30(36)33-20-21-13-16-34(17-14-21)15-6-2-3-12-28(35)24-11-7-9-22-8-4-5-10-23(22)24;/h4-5,7-11,18-19,21H,2-3,6,12-17,20,32H2,1H3,(H,33,36);1H
